US07557131B2
Preparation 26: 4-[(1-Benzylpiperidin-4-yl)oxy]pyridine
The title compound was prepared from 1-benzyl-4-hydroxypiperidine and 4-chloropyridine (979 mg, 8.62 mmol), using the same method as that described for preparation 25, as an oil in 52% yield. 1H NMR(CDCl3, 400 MHz) □: 1.81-1.96(m, 2H), 1.98-2.18(m, 2H), 2.30-2.48 (m, 2H), 2.70-2.83(m, 2H), 3.52-3.70(m, 2H), 4.40-4.50(m, 1H), 6.72-6.80(m, 2H), 7.22-7.39(m, 5H), 8.40(m, 2H); LRMS APCI m/z 269 [M+H]+

reactant | 1-benzyl-4-hydroxypiperidine | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | 4-chloropyridine | 8.62 mmol, 979 mg | ClC1=CC=NC=C1 | C5H4ClN
product | 4-[(1-Benzylpiperidin-4-yl)oxy]pyridine | 52% yield | C(C1=CC=CC=C1)N1CCC(CC1)OC1=CC=NC=C1 | C17H20N2O
